US03933887
300 Parts of 1-acetylamino-2,5-dimethoxybenzene were introduced at about 5°C in 1500 parts of 95 % sulfuric acid while stirring, 127 Parts of bromine were added dropwise at about 5°C with outside cooling. The mixture was stirred at 20°C for about 3 hours, 6000 parts by volume of water were added dropwise (a temperature of 25°C is not to be exceeded), the precipitate was suction-filtered and dried. 381 parts of 1-acetylamino-2,5-dimethoxy-4-bromobenzene (=90.4 % of the theory) were obtained.

reactant | 1-acetylamino-2,5-dimethoxybenzene | C(C)(=O)NC1=C(C=CC(=C1)OC)OC | C10H13NO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | bromine | BrBr | Br2
solvent | water | O | H2O
product | 1-acetylamino-2,5-dimethoxy-4-bromobenzene | C(C)(=O)NC1=C(C=C(C(=C1)OC)Br)OC | C10H12BrNO3
